US05688803
7,8-Dichloro-4-hydroxy-2,3-dihydro-1H-pyrazolo[4,3-c]quinolin-3-one
0.63 g (0.002 mol) of ethyl 5-(2-amino-4,5-dichlorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate was dissolved in 10 ml of dimethylformamide and boiled under reflux for 1/2 hr. The mixture was cooled, the suspension was treated with 50 ml of ethanol, suction filtered and dried in a vacuum. Yield: 0.18 g (33%) of 7,8-dichloro-4-hydroxy-2,3-dihydro-1H-pyrazolo[4,3-c]quinolin-3-one as beige crystals; m.p. >350° C.

reactant | ethyl 5-(2-amino-4,5-dichlorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 0.002 mol, 0.63 g | NC1=C(C=C(C(=C1)Cl)Cl)C1=C(C(NN1)=O)C(=O)OCC | C12H11Cl2N3O3
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7,8-Dichloro-4-hydroxy-2,3-dihydro-1H-pyrazolo[4,3-c]quinolin-3-one | ClC=1C(=CC=2C3=C(C(=NC2C1)O)C(NN3)=O)Cl | C10H5Cl2N3O2
